US05360808
To a 500 ml 3-necked flask fitted with a magnetic stirrer bar, addition funnel, nitrogen inlet, and containing 2-oxo-2H-pyran-5-carboxylic acid methyl ester (coumalic acid methyl ester) (10.0 g, 65.0 mmol) and absolute ethanol 160 ml) was added, over 3-5 minutes at room temperature, a solution consisting of 1,2-diaminoethane (17.4 ml, 260 mmol) and abs. ethanol (50 ml). Stirring was continued for 4 hours at which time the suspension was filtered. Concentration of the flitrate gave 1-(2-aminoethyl)-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester which was used without purification.

reactant | 2-oxo-2H-pyran-5-carboxylic acid methyl ester | 65.0 mmol, 10.0 g | COC(=O)C=1C=CC(OC1)=O | C7H6O4
reactant | 1,2-diaminoethane | 260 mmol, 17.4 ml | NCCN | C2H8N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 1-(2-aminoethyl)-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester | COC(=O)C1=CN(C(C=C1)=O)CCN | C9H12N2O3
